US04623657
5-Bromo-3-(3-dimethylaminopropyl)-3-hydroxy-spiro[benzofuran-2(3H),1'-cycloheptane]
A stirred mixture of 2.72 g of magnesium turnings in 32 ml of diethyl ether containing about 0.5 ml of 1,2-dibromoethane was treated with a solution of 13.62 g of freshly distilled 3-dimethylaminopropyl chloride in 32 ml of ether at a rate sufficient to produce and maintain reflux. After the addition, a solution of 16.53 g of 5-bromo-spiro[benzofuran-2(3H),1'-cycloheptan]-3-one in 65 ml of benzene was added, followed by an additional 32 ml of ether and the mixture was refluxed overnight under nitrogen. After 14.5 hours of reflux, the mixture was cooled in ice water and treated cautiously with 140 ml of saturated aqueous ammonium chloride solution. The mixture was then poured into a separatory funnel, the flask was rinsed with a few hundred ml's of distilled water, and the combined mixture was extracted with ether (2×400 ml). The combined organic extracts were washed with water (250 ml) and saturated sodium chloride solution (250 ml), dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to an oil which crystallized to a solid. This material was triturated with petroleum ether and filtered to afford 8.74 g of crude product. Preparative HPLC purification of this material was performed using two columns and 5% methanol/dichloromethane as a solvent. The purest fractions containing the desired material were combined and concentrated in vacuo to a solid. This material was triturated with hexane, filtered and dried to afford 4.16 g of a solid, m.p. 126°-128° C.

reactant | magnesium | 2.72 g | [Mg] | Mg
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | 3-dimethylaminopropyl chloride | CN(CCCCl)C | C5H12ClN
reactant | 5-bromo-spiro[benzofuran-2(3H),1'-cycloheptan]-3-one | 16.53 g | BrC=1C=CC2=C(C(C3(CCCCCC3)O2)=O)C1 | C14H15BrO2
reactant | ammonium chloride | 140 ml | [Cl-].[NH4+]
solvent | diethyl ether | 32 ml | C(C)OCC | C4H10O
solvent | ether | 32 ml | CCOCC | C4H10O
solvent | benzene | 65 ml | C1=CC=CC=C1 | C6H6
solvent | ether | 32 ml | CCOCC | C4H10O
product | 5-Bromo-3-(3-dimethylaminopropyl)-3-hydroxy-spiro[benzofuran-2(3H),1'-cycloheptane] | 4.16 g | BrC=1C=CC2=C(C(C3(CCCCCC3)O2)(O)CCCN(C)C)C1 | C19H28BrNO2
